US07598391B2
[2-(3-Cycloheptyl-3-cyclopentyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid
[2-(3-Cycloheptyl-3-cyclopentyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid ethyl ester prepared as described in general procedures (A) and (B) using cycloheptyl-cyclopentylamine and 5-aminothiazole-2-mercaptoacetic acid ethyl ester. Hydrolysis using general procedure (F) gave the title compound.

reactant | [2-(3-Cycloheptyl-3-cyclopentyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)NC(=O)N(C1CCCC1)C1CCCCCC1)=O | C20H31N3O3S2
reactant | cycloheptyl-cyclopentylamine | C1(CCCCCC1)NC1CCCC1 | C12H23N
reactant | 5-aminothiazole 2-mercaptoacetic acid ethyl ester | NC1=CN=CS1.C(C)OC(CS)=O
product | [2-(3-Cycloheptyl-3-cyclopentyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)C1CCCC1 | C18H27N3O3S2
